US08283340B2
(4-(Benzhydryloxy)phenyl)methanol (500 mg, 1.72 mmol) was dissolved in toluene (20 ml) and pyridine (139 uL, 1.72 mmol) was added. The solution was cooled to 0° C. PBr3 (163 uL, 1.72 mmol) was added dropwise over 15 min. The resulting mixture was stirred at room temperature for 1 h. It was then washed with saturated K2CO3 solution and extracted with EtOAc (3×30 mL). The EtOAc layer was washed with brine and dried (MgSO4). The solvent was evaporated off in-vacuo to obtain ((4-(bromomethyl)phenoxy)methylene)dibenzene as an oil, (450 mg, 74%). This intermediate was used in the following reaction.

reactant | (4-(Benzhydryloxy)phenyl)methanol | 1.72 mmol, 500 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)CO | C20H18O2
reactant | pyridine | 1.72 mmol, 139 uL | N1=CC=CC=C1 | C5H5N
reactant | PBr3 | 1.72 mmol, 163 uL | P(Br)(Br)Br | Br3P
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | ((4-(bromomethyl)phenoxy)methylene)dibenzene | BrCC1=CC=C(OC(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C20H17BrO
